US06320050B1
A mixture of 2-(3-chloro-phenyl)-3-cyclopentyl-propionic acid methyl ester (113 mg, 0.42 mmol) and 2-aminothiazole (84 mg, 0.84 mmol) in a solution of magnesium methoxide in methanol (7.4 wt %, 2.4 mL, 1.69 mmol) was refluxed at 100° C. for 20 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 2-(3-chloro-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide (87 mg, 53%) as a white solid: mp 138.8-141.2° C.; EI-HRMS m/e calcd for C17H19ClN2OS (M+) 334.0906, found 334.0907.

reactant | 2-(3-chloro-phenyl)-3-cyclopentyl-propionic acid methyl ester | 0.42 mmol, 113 mg | COC(C(CC1CCCC1)C1=CC(=CC=C1)Cl)=O | C15H19ClO2
reactant | 2-aminothiazole | 0.84 mmol, 84 mg | NC=1SC=CN1 | C3H4N2S
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 1.69 mmol, 2.4 mL | CO | CH4O
product | 2-(3-chloro-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide | 87 mg, 53% | ClC=1C=C(C=CC1)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C17H19ClN2OS
